US07414049B2
b) (S)-3-Amino-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester Hydrochloride
In an analogous manner to that described in Example 1d), the treatment of the (S)-3-tert-butoxycarbonylamino-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester with hydrochlorid acid (37%) in dioxane yielded (98% of theory) the title compound as an off-white solid; MS (m/e): 304 (M+H)+.

reactant | (S)-3-tert-butoxycarbonylamino-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester | FC(COC(=O)N1C2=C(NC([C@H](C1)NC(=O)OC(C)(C)C)=O)C=CC=C2)(F)F | C17H20F3N3O5
reactant | hydrochlorid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-3-Amino-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester Hydrochloride | Cl.FC(COC(=O)N1C2=C(NC([C@H](C1)N)=O)C=CC=C2)(F)F | InChI=1S/C12H12F3N3O3.ClH/c13-12(14,15)6-21-11(20)18-5-7(16)10(19)17-8-3-1-2-4-9(8)18;/h1-4,7H,5-6,16H2,(H,17,19);1H/t7-;/m0./s1
